US04342780
2-Ethoxy-1-fluoro-3-(3-methoxyphenyl)prop-2-ene (8.40 g, 0.040 mol) is stirred with a saturated solution of hydrogen chloride in diethyl ether (80 ml) overnight. The ether layer is separated, washed with water, dried (MgSO4) and filtered. Concentration of the solvent affords 1-fluoro-3-(3-methoxyphenyl)-2-propanone (7.200 g); NMR (CDCl3): 3.73 ppm (m, 5H); 4.77 ppm (d, JHF =48 Hz, 2H); 6.57-7.33 ppm (m, 4H).

reactant | 2-Ethoxy-1-fluoro-3-(3-methoxyphenyl)prop-2-ene | 0.040 mol, 8.40 g | C(C)OC(CF)=CC1=CC(=CC=C1)OC | C12H15FO2
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 80 ml | C(C)OCC | C4H10O
product | 1-fluoro-3-(3-methoxyphenyl)-2-propanone | 7.200 g | FCC(CC1=CC(=CC=C1)OC)=O | C10H11FO2
